US07411072B2
3-(9,10-Dihydro-1-thia-benzo[f]azulen-4-ylidenemethyl)-phenylamine
4-Methylene-9,10-dihydro-4H-1-thia-benzo[f]azulene is converted to the vinyl bromide as in Preparation 24 and the vinyl bromide coupled with 3-aminophenylboronic acid using the procedures essentially as described in Example 219.

reactant | 4-Methylene-9,10-dihydro-4H-1-thia-benzo[f]azulene | C=C1C=2C=CSC2CCC2=C1C=CC=C2 | C14H12S
reactant | vinyl bromide | C(=C)Br | C2H3Br
reactant | 3-aminophenylboronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | 3-(9,10-Dihydro-1-thia-benzo[f]azulen-4-ylidenemethyl)-phenylamine | S1C=CC=2C(C3=C(CCC12)C=CC=C3)=CC=3C=C(C=CC3)N | C20H17NS
